US04758578
3-(4-Methoxyphenyl)-1,2,4-thiadiazole-5-sulfenamide
A solution of 25 g of 5-mercapto-3-(4-methoxyphenyl)-1,2,4-thiadiazole in 350 ml of 5% sodium hydroxide and a solution prepared by diluting 220 ml of 5.25% NaOCl to 350 ml with water were added simultaneously to 950 ml of ammonium hydroxide solution while maintaining the mixture at 0°. The resulting mixture was stirred for 15 minutes and the precipitated solid was collected, washed with water and dried (P2O5 /high vacuum) to give 15.6 g of solid, m.p. 136°-139°.

reactant | 5-mercapto-3-(4-methoxyphenyl)-1,2,4-thiadiazole | 25 g | SC1=NC(=NS1)C1=CC=C(C=C1)OC | C9H8N2OS2
reactant | NaOCl | 220 ml | [O-]Cl.[Na+]
reactant | ammonium hydroxide | 950 ml | [OH-].[NH4+]
solvent | sodium hydroxide | 350 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(4-Methoxyphenyl)-1,2,4-thiadiazole-5-sulfenamide | 15.6 g | COC1=CC=C(C=C1)C1=NSC(=N1)SN | C9H9N3OS2
